US04070473
Preparation of gamma-(4-methyl-4-butoxypiperidino)-p-fluorobutyrophenone hydrochloride
3.1 g (0.127 m) of sodium is granulated in 200 ml of boiling toluene. After cooling, 26.5 g (0.126 m) of ethyl beta-(p-fluorophenyl)-beta-oxopropionate is added drop by drop and then the solution is stirred for one-half hour at 50° C. The yellow solution which forms is cooled and 30 g (0.30 m) of beta-(4-methyl-4-butoxy-piperidino)-ethyl-chloride is added rapidly thereto. The reaction mixture is stirred for four hours at 60° C and for five hours at 85° C. After evaporation on a steam bath and addition of 500 ml of 2.5-N sulphonic acid, the solution is refluxed for sixteen hours, cooled, alkalized with an excess of potassium carbonate, and extracted with ether. The solution is evaporated and the residue distilled at 124-130/0.01 mm Hg. Yield 19.5 g. The hydrochloride has the m.p. 167°-169° C.

reactant | sodium | 3.1 g | [Na] | Na
reactant | ethyl beta-(p-fluorophenyl)-beta-oxopropionate | 26.5 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | beta-(4-methyl-4-butoxy-piperidino)-ethyl-chloride | 30 g | CC1(CCN(CC1)CCCl)OCCCC | C12H24ClNO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | gamma-(4-methyl-4-butoxypiperidino)-p-fluorobutyrophenone hydrochloride | Cl.CC1(CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)OCCCC | InChI=1S/C20H30FNO2.ClH/c1-3-4-16-24-20(2)11-14-22(15-12-20)13-5-6-19(23)17-7-9-18(21)10-8-17;/h7-10H,3-6,11-16H2,1-2H3;1H
